US05162568
A reactor is charged with 13.48 parts of mixed acid containing 3.33 parts HNO3, 7.77 parts H2SO4 and 2.38 parts H2O. The mixed acid is agitated and its temperature adjusted to 25°±3° C. Urea (0.40 part) is added to the mixed acid over a period of 1/2 hour and the temperature allowed to rise to 32.5°±2.5° C. 2-Ethylhexyl alcohol (5.85 parts) are added to the reactor at a rate of 0.065 part per minute while maintaining the temperature at 32.5°±2.5° C. After addition of 2-ethylhexyl alcohol, the reaction mixture is held at 32.5°±2.5° C. for 1 hour at which time agitation is stopped and the bottom acid layer which forms is drained from the reactor. An aqueous 10% sodium sulfate solution (2.73 parts) is added to the reactor and the resulting mixture agitated. After 15 minutes, agitation is stopped and the bottom aqueous solution layer, which forms, is separated. An aqueous 10% sodium sulfate solution is added to the ethylhexyl nitrate layer which is agitated for 15 minutes at which point 0.50 part of an aqueous 10% sodium carbonate solution is slowly added. An additional 2.73 parts of a 10% aqueous sodium sulfate solution is added to the reactor and agitated for 15 minutes, after which the lower aqueous layer is drained. Another 2.73 parts of 10% aqueous sodium sulfate solution is added to the reactor and the contents agitated for 15 minutes after which 0.50 part 10% aqueous sodium carbonate is added, the agitation stopped and the lower aqueous layer drained. The 2-ethylhexyl nitrate product is obtained in 97% yield, i.e., 7.64 parts.

reactant | HNO3 | [N+](=O)(O)[O-] | HNO3
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | Urea | NC(=O)N | CH4N2O
reactant | 2-Ethylhexyl alcohol | C(C)C(CO)CCCC | C8H18O
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | H2O | O | H2O
product | 2-ethylhexyl nitrate | 97% yield | [N+](=O)(OCC(CCCC)CC)[O-] | C8H17NO3
